US04081595
To a solution of p-nitrobenzyl 7-phenylacetamido-3-chloro-3-cephem-4-carboxylate-1-oxide (504 mg) in dimethylformamide (20 ml) one adds a 50% suspension of sodium hydride (48 mg) in mineral oil under nitrogen atmosphere, stirs for 40 minutes, adds methyl iodide (0.5 ml), stirs for 15 minutes at room temperature, dilutes with water, extracts with ethyl acetate, washes with water, dries, concentrates under reduced pressure, and purifies by chromatography to give p-nitrobenzyl 7-phenylacetamido-2-methyl-3-chloro-3-cephem-4-carboxylate-1-oxide (38 mg).

reactant | p-nitrobenzyl 7-phenylacetamido-3-chloro-3-cephem-4-carboxylate-1-oxide | 504 mg | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2=O)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C22H18ClN3O7S
reactant | sodium hydride | 48 mg | [H-].[Na+]
reactant | methyl iodide | 0.5 ml | CI | CH3I
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | p-nitrobenzyl 7-phenylacetamido-2-methyl-3-chloro-3-cephem-4-carboxylate-1-oxide | 38 mg | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(C(S2=O)C)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C23H20ClN3O7S
